US04892939
5'-O-(N-Lysylisoleucyl)-5-fluorouridine dihydrochloride
1.00 Gram (2.42 mmol) of 5'-O-isoleucyl-5-fluorouridine hydrochloride was dissolved in dimethylformamide (20 ml), and 1.00 g (2.85 mmol) of Nα,Nε -di-benzyloxycarbonyllysine and 0.67 g (3.69 mmol) of diethylphosphoryl cyanide were then added. To this solution was added under ice-cooling 1.54 g (15.2 mmol) of triethylamine, and the mixture was stirred overnight at room temperature. After addition of ice water the reaction liquid was extracted with chloroform (200 ml). The organic layer was dried (over Na2SO4) and concentrated under reduced pressure, and the residue was subjected to separation/purification by way of silica gel column chromatography (first time: 2.5×11 cm, chloroform containing 4% methanol; second time: 5×14 cm, a linear gradient of ethyl acetate-n-hexane (1:1) containing 0→6% methanol) whereby 0.46 g (26%) of 5'-O-{N-(Nα,Nε -di-benzyloxycarbonyllysyl)isoleucyl}-5-fluorouridine was obtained as a colorless powdery solid.

reactant | 5'-O-isoleucyl-5-fluorouridine hydrochloride | 2.42 mmol | Cl.N[C@@H]([C@@H](C)CC)C(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O
reactant | Nα,Nε -di-benzyloxycarbonyllysine | 2.85 mmol, 1.00 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C22H26N2O6
reactant | diethylphosphoryl cyanide | 3.69 mmol, 0.67 g | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 15.2 mmol, 1.54 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5'-O-(N-Lysylisoleucyl)-5-fluorouridine dihydrochloride | Cl.Cl.N[C@@H](CCCCN)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | InChI=1S/C21H34FN5O8.2ClH/c1-3-10(2)14(25-18(31)12(24)6-4-5-7-23)20(32)34-9-13-15(28)16(29)19(35-13)27-8-11(22)17(30)26-21(27)33;;/h8,10,12-16,19,28-29H,3-7,9,23-24H2,1-2H3,(H,25,31)(H,26,30,33);2*1H/t10-,12-,13+,14-,15+,16+,19+;;/m0../s1
